US07795254B2
Palladium, 10 wt % on activated carbon (0.050 g, 0.47 mmol) was added to a solution of 7-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine (0.250 g, 0.60 mmol) in ethanol (10.0 mL). The system was evacuated and purged with hydrogen (g) three times and then stirred under a H2 (g) atmosphere for 20 h. The reaction mixture was filtered through a pad of Celite and concentrated to afford 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-6-methoxyquinolin-7-ol (0.200 g, 102% yield) as a yellow-green solid. MS (MH+) 325.0; Calculated 324 for C18H16N2O4.

reactant | 7-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 0.60 mmol, 0.250 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C=CC2=C(OCCN2)C1)OC | C25H22N2O4
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
catalyst | Palladium | [Pd] | Pd
product | 4-(3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yloxy)-6-methoxyquinolin-7-ol | 0.200 g, 102% yield | O1C2=C(NCC1)C=CC(=C2)OC2=CC=NC1=CC(=C(C=C21)OC)O | C18H16N2O4
